.title cap_BUF_in
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param VDD=1.8
Vdd vdd 0 1.8
V_in in 0 0.0 AC 1
X1 mid in vdd vdd PMOS18 W={(2.6560)*1e-6} L=0.18u
X2 mid in 0 0 NMOS18 W={(0.5717)*1e-6} L=0.18u
X3 out mid vdd vdd PMOS18 W={(7.9680)*1e-6} L=0.18u
X4 out mid 0 0 NMOS18 W={(1.7151)*1e-6} L=0.18u
.control
foreach vb 0 1.8
  alter V_in dc=$vb
  ac lin 1 1e6 1e6
  let cpf = abs(imag(V_in#branch))/6283185.307*1e15
  echo "RES cap=$&cpf"
end
.endc
.end
